US05250539
8-bromo-4-methyl-1,2,3,4,5,6-hexahydrobenzo[f]quinolin-3-one
By substantially following the procedures described above in Example 1 5.17 g of 8-bromo-1,2,3,4,5,6-hexahydrobenzo[f]quinolin-3-one was obtained. The hexahydrobenzoquinolinone (5.17 g; 19.6 mmol) was dissolved in 60 ml of dry diethyl ether in a 250 ml round bottomed flask. To the solution was added 1.2 g of sodium hydride (60% dispersion in mineral oil). The flask was fitted to a reflux condenser with a stirring bar and the mixture refluxed for 2 hours. The mixture was then cooled to room temperature and 7.35 ml of methyl iodide was added. After addition, the reaction mixture was refluxed for an additional 3 hours. After cooling, the reaction mixture was quenched by the cautious addition of 5 ml of water. The mixture was then concentrated under vacuum affording a pale solid which was taken up in a ethyl acetate/water mixture and the resulting layers separated. The organic layer was washed twice with water and once with brine and then dried over MgSO4 and concentrated under vacuum to afford 5.22 g of a yellow crystalline solid. The solid was recrystallized from acetone to afford 3.55 g (62%) of the subtitle compound as a pale yellow solid. Melting point 126°-128° C.

reactant | 8-bromo-1,2,3,4,5,6-hexahydrobenzo[f]quinolin-3-one | BrC1=CC2=C(C=3CCC(NC3CC2)=O)C=C1 | C13H12BrNO
reactant | hexahydrobenzoquinolinone | 19.6 mmol, 5.17 g | N1C(CCC2CCC3=C(C12)C=CC=C3)=O | C13H15NO
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | methyl iodide | 7.35 ml | CI | CH3I
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 8-bromo-4-methyl-1,2,3,4,5,6-hexahydrobenzo[f]quinolin-3-one | 5.22 g | BrC1=CC2=C(C=3CCC(N(C3CC2)C)=O)C=C1 | C14H14BrNO
